US06969710B2
N-{4-(1,4-diazepan-1-yl)-2-[(methylsulfonyl)amino]phenyl}-3,5-dimethyl-4-isoxazolesulfonamide hydrochloride (Scheme 3)
The compound was synthesized from N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}methanesulfonamide and 3,5-dimethylisoxazole-4-sulfonylchloride (89 mg, 0.455 mmol) 3 to give 120 mg of as purple solid. M+1 444.2 Calcd 444.13.

reactant | N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}methanesulfonamide | NC1=C(C=C(C=C1)N1CCN(CCC1)C(=O)OC(C)(C)C)NS(=O)(=O)C | C17H28N4O4S
reactant | 3,5-dimethylisoxazole-4-sulfonylchloride | 0.455 mmol, 89 mg | CC1=NOC(=C1S(=O)(=O)Cl)C | C5H6ClNO3S
product | N-{4-(1,4-diazepan-1-yl)-2-[(methylsulfonyl)amino]phenyl}-3,5-dimethyl-4-isoxazolesulfonamide hydrochloride | Cl.N1(CCNCCC1)C1=CC(=C(C=C1)NS(=O)(=O)C=1C(=NOC1C)C)NS(=O)(=O)C | InChI=1S/C17H25N5O5S2.ClH/c1-12-17(13(2)27-19-12)29(25,26)21-15-6-5-14(11-16(15)20-28(3,23)24)22-9-4-7-18-8-10-22;/h5-6,11,18,20-21H,4,7-10H2,1-3H3;1H
